US05298627
Step 5: Preparation of (4R-cis)-1-[2-[6-[2-(diphenylamino)-2-oxoethyl]-2,2-dimethyl-1,3-dioxan-4-yl]ethyl]-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-1H-pyrrole-3-carboxamide
A nitrogen purged 500 mL three-neck flask is charged with 4-fluoro-α-(2-methyl-1-oxopropyl)-γ-oxo-N,β-diphenylbenzenebutanamide (Baumann, supra) (13.6 g, 0.032 mol), (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide (10.0 g, 0.027 mol), heptane (100 mL), pivalic acid (3 g), tetrahydrofuran (50 mL), and toluene (60 mL). The mixture is heated to reflux for 48 hours, cooled to room temperature, and diluted with toluene (300 mL). The solution is washed with 0.5N aqueous sodium hydroxide (150 mL), followed by 0.5N aqueous hydrochloric acid (250 mL), and concentrated by vacuum distillation to a foam. The product, (4R-cis)-1-[2-[6-[2-(diphenylamino)-2-oxoethyl]-2,2--dimethyl-1,3-dioxan-4-yl]ethyl]-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-1H-pyrrole-3-carboxamide, is used in the next step without further purification. Fourier Transform Infrared Spectroscopy (FTIR)(KBr) 3450, 2860, 1650, 1620 cm-1 ;

reactant | 4-fluoro-α-(2-methyl-1-oxopropyl)-γ-oxo-N,β-diphenylbenzenebutanamide | 0.032 mol, 13.6 g | FC1=CC=C(C=C1)C(C(C(C(=O)NC1=CC=CC=C1)C(C(C)C)=O)C1=CC=CC=C1)=O | C26H24FNO3
reactant | (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-diphenyl-1,3-dioxane-4-acetamide | 0.027 mol, 10.0 g | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O3
reactant | heptane | 100 mL | CCCCCCC | C7H16
reactant | pivalic acid | 3 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4R-cis)-1-[2-[6-[2-(diphenylamino)-2-oxoethyl]-2,2-dimethyl-1,3-dioxan-4-yl]ethyl]-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-1H-pyrrole-3-carboxamide | C1(=CC=CC=C1)N(C(C[C@H]1C[C@H](OC(O1)(C)C)CCN1C(=C(C(=C1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)C(C)C)=O)C1=CC=CC=C1 | C48H48FN3O4
